US08202865B2
Methyl N-(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)-beta-alaninate
The title compound was prepared following procedure described in example 121 starting from 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride, prepared as in example 130, and beta-alanine methyl ester hydrochloride. The title compound was obtained as a white foam. 1H NMR: (DMSO-d6, 300 MHz) δ 8.87 (m, 1H), 8.58 (m, 1H), 8.35 (m, 1H), 8.27 (m, 1H), 8.19 (dd, J=1.9 Hz, 7.9 Hz, 1H), 8.07 (m, 1H), 7.72 (t, J=7.9 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.38-7.25 (m, 3H), 7.15 (m, 1H), 4.23 (d, J=12.9 Hz, 1H), 4.17 (d, J=12.9 Hz, 1H), 3.63 (s, 3H), 3.54 (m, 1H), 3.25 (s, 3H), 3.64 (t, J=6.9 Hz, 2H), 2.04 (s, 3H). LC/MS (Method B): 486.2 (M+H)+ 484.2 (M−H)−. HPLC (Method A) Rt: 5 min (purity: 99.3%).

reactant | 3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl chloride | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)Cl)C=CC1)C1=C(C=CC=C1)C | C24H19ClN2O3
reactant | beta-alanine methyl ester hydrochloride | Cl.COC(CCN)=O
product | Methyl N-(3-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}benzoyl)-beta-alaninate | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=C(C(=O)NCCC(=O)OC)C=CC1)C1=C(C=CC=C1)C | C28H27N3O5
